US05962458
Diethyl azodicarboxylate (261 mg, 1.5 mmol) was added dropwise to a suspension of of 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (160 mg, 0.5 mmol), (prepared as described for the starting material in Example 24), triphenylphosphine (393 mg, 1.5 mmol) and 2-(N-(4-pyridyl)amino)ethanol (97 mg, 0.7 mmol) in methylene chloride (8 ml) and the mixture stirred for 2 hours at ambient temperature. The mixture was diluted with ethyl acetate (5 ml), the solid product was collected by filtration and purified by chromatography on an aluminium oxide column eluting with methylene chloride/acetonitrile/methanol (60/35/5). The purified solid was triturated with ether and collected by filtration. The solid was dissolved in a mixture of methylene chloride/methanol and 3M ethereal hydrogen chloride (0.5 ml) was added. The volatiles were removed by evaporation, the solid residue was suspended in ether, collected by filtration, washed with ether and dried under vacuum to give 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(2-(N-(4-pyridyl)amino)ethoxy)quinazoline hydrochloride (95 mg, 37%).

reactant | Diethyl azodicarboxylate | 1.5 mmol, 261 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 0.5 mmol, 160 mg | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11ClFN3O2
reactant | triphenylphosphine | 1.5 mmol, 393 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-(N-(4-pyridyl)amino)ethanol | 0.7 mmol, 97 mg | N1=CC=C(C=C1)NCCO | C7H10N2O
solvent | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(2-(N-(4-pyridyl)amino)ethoxy)quinazoline hydrochloride | 95 mg, 37% | Cl.ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCNC2=CC=NC=C2)C=C1)F | InChI=1S/C22H19ClFN5O2.ClH/c1-30-20-11-16-19(12-21(20)31-9-8-26-15-4-6-25-7-5-15)27-13-28-22(16)29-18-3-2-14(23)10-17(18)24;/h2-7,10-13H,8-9H2,1H3,(H,25,26)(H,27,28,29);1H
